US07667041B2
2-fluoro malonic acid diethyl ester (670 μL) was added to a THF (8 mL) suspension of sodium hydride (170 mg) under ice-cooling, and the reaction solution was agitated under ice-cooling for 20 minutes and further agitated at room temperature for 1 hour. After dropping the THF (2 mL) solution of (E)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl)acrylic acid ethyl ester (1 g) obtained above to the reaction solution over 10 minutes and the reaction solution was agitated at room temperature for 30 minutes, and heated to reflux for 8 hours. After the reaction solution was allowed to be cooled to room temperature, ethyl acetate and water was added and the organic layer was washed with a saturated ammonium chloride solution. After drying the organic layer over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:from hexane to hexane:ethyl acetate=1:1), and 593 mg (56%) of (E)-2-fluoro-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl)acrylic acid ethyl ester was obtained. The physical properties of the compound are as follows.

reactant | 2-fluoro malonic acid diethyl ester | 670 μL | C(C)OC(C(C(=O)OCC)F)=O | C7H11FO4
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | sodium hydride | 170 mg | [H-].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | (E)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl)acrylic acid ethyl ester | 1 g | C(C)OC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C16H18N2O3
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-fluoro-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl)acrylic acid ethyl ester | 593 mg, 56% | C(C)OC(/C(=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)/F)=O | C16H17FN2O3
